US06008243
A solution of crude 3(R)-amino-N-(2,2-dimethyl-1(S)-methylcarbamoylpropyl)succinamic acid benzyl ester trifluoroacetate salt (0.44 mmol), 4-(2,5-dimethoxy-tetrahydro-furan-3-yl)pyridine (101 mg, 0.482 mmol), pyridine (156 μL, 1.92 mmol), and chlorotrimethylsilane (366 μL, 2.88 mmol) in 1,2-dichloroethane (5 mL) was heated at 90° C. After 3 days, the mixture was allowed to cool and concentrated in vacuo to give a brown oil which was purified via flash column chromatography with 0.5% HOAc/10% MeOH/CH2Cl2 as eluant to afford 90 mg (43%) of N-(2,2-dimethyl-1(S)-methylcarbamoylpropyl)-3(R)-(3-pyridin-4-yl-1H-pyrrol-1-yl)succinamic acid benzyl ester as a pale yellow powder, mp 130-3° C. 1H NMR (CD3OD): ∂ 8.36 (bs, 2H), 7.98 (d, 2H, J=4.4 Hz), 7.51 (d, 2H, J=5.0 Hz, 7.48 (t, 1H, J=1.8 Hz), 6.93 (t, 1H, J=2.5 Hz), 6.61 (dd, 1H, J=1.7, 3.0 Hz), 5.34 (t, 1H, J=7.6 Hz), 5.10 (dd, 2H, J=2.5, 14.3 Hz), 4.16 (s, 1H), 3.14 (dd, 1H, J=7.8 Hz, 16.5 Hz), 2.60 (d, 3H, J=3.4 Hz), 0.92 (s,9H). IR (KBr): 3314, 2965, 1734, 1648, 1604, 1543, 1400, 1167cm-1. HRFABMS: Calcd for C27H32N4O4Cs (M+Cs+): 609.1478. Found: 609.1499. Anal: Calculated for C27H32N4O4.0.1 CH2Cl2. MeOH: C, 65.27; H, 7.06; N, 10.83. Found: C, 65.52; H, 6.89; N, 10.52.

reactant | 3(R)-amino-N-(2,2-dimethyl-1(S)-methylcarbamoylpropyl)succinamic acid benzyl ester trifluoroacetate salt | 0.44 mmol | FC(C(=O)O)(F)F.C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)N)=O
reactant | 4-(2,5-dimethoxy-tetrahydro-furan-3-yl)pyridine | 0.482 mmol, 101 mg | COC1OC(CC1C1=CC=NC=C1)OC | C11H15NO3
reactant | pyridine | 1.92 mmol, 156 μL | N1=CC=CC=C1 | C5H5N
reactant | chlorotrimethylsilane | 2.88 mmol, 366 μL | Cl[Si](C)(C)C | C3H9ClSi
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | N-(2,2-dimethyl-1(S)-methylcarbamoylpropyl)-3(R)-(3-pyridin-4-yl-1H-pyrrol-1-yl)succinamic acid benzyl ester | 90 mg, 43% | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)N1C=C(C=C1)C1=CC=NC=C1)=O | C27H32N4O4
